US05532367
Under a nitrogen atmosphere, a stirred solution of 1.0 gram (0.003 mole) of 2-amino-3-cyano-5-[3,5-di(trifluoromethyl)phenyl]pyrazine and 1.3 grams (0.007 mole) of guanidine carbonate in 10 mL of N,N-dimethylacetamide is heated at about 150° C. for 40 hours. After this time, the reaction mixture is poured into 50 mL of water. The resultant solid is collected by filtration and is then slurried in 25 mL of diethyl ether. The solid is again collected by filtration and is then recrystallized from ethanol, yielding 2,4-diamino-6-[3,5-di(trifluoromethyl)phenyl]pteridine.

reactant | 2-amino-3-cyano-5-[3,5-di(trifluoromethyl)phenyl]pyrazine | 0.003 mole, 1.0 gram | NC1=NC=C(N=C1C#N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C13H6F6N4
reactant | guanidine carbonate | 0.007 mole, 1.3 grams | C(O)(O)=O.NC(=N)N
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2,4-diamino-6-[3,5-di(trifluoromethyl)phenyl]pteridine | NC1=NC2=NC=C(N=C2C(=N1)N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H8F6N6
